US08137821B2
Dimethylhydroxymethyl-5-fluoro-3-butyl-8-quinolylacetylene (788 mg, 2.76 mmol) and NaOH (121 mg, KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98% article, 3.03 mmol) were placed in a 30 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 18.0 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 30 minutes. Diethyl ether was added to the reaction mixture, and then the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate, followed by distilling off of the solvent under reduced pressure by an evaporator. The crude reaction product was purified by column chromatography (Hexane/AcOEt=100/0→1/10) using silica gel to give 449 mg of 5-fluoro-3-butyl-8-quinolylethyne as a yellow solid. This was immediately dissolved in 11.0 mL of ethanol, under an argon atmosphere, in a 30 mL Schlenk tube, and Au(PPh3)Cl (290 mg, 0.587 mmol) was added thereto, and then sodium ethoxide (243 μl, 0.620 mmol: 2.55 mol/L (liter) in ethanol solution) was added dropwise thereto, followed by stirring of the mixture at room temperature for 15 hours. After completion of the reaction, the resulting white precipitate was filtered and successively washed with 5 mL of water four times and 5 mL of ethanol twice, followed by drying under vacuum to give 751 mg of the desired compound as a pale yellow powder (yield: 39.7%).

reactant | Dimethylhydroxymethyl-5-fluoro-3-butyl-8-quinolylacetylene | 2.76 mmol, 788 mg | CC1=C(C(=NC2=C(C=CC(=C12)F)C#CCO)C)CCCC | C18H20FNO
reactant | NaOH | 3.03 mmol, 121 mg | [OH-].[Na+]
reactant | toluene | 18.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 5-fluoro-3-butyl-8-quinolylethyne | 449 mg | FC1=C2C=C(C=NC2=C(C=C1)C#C)CCCC | C15H14FN
